US05449783
2.68 ml of anhydrous trifluoromethanesulfonic acid was slowly dropped into a solution of 2.88 g of 2-amino-4,5-bis(4-fluorophenyl)thiazole and 1.8 ml of triethylamine in chloroform under stirring in a nitrogen atmosphere at -20° to -15° C., and the resulting mixture was stirred as such for 1 hour. Then the reaction mixture was successively washed with diluted hydrochloric acid, a 5% aqueous solution of sodium hydrogencarbonate and water in this order and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the reaction product was separated with a silica gel column by using isopropyl ether as a developer. The crystals thus obtained were recrystallized from petroleum ether/diethyl ether to give 0.47 g of 2-trifluoromethanesulfonylamino-4,5-bis(4-fluorophenyl)thiazole. The melting point of this product was from 193° to 195° C.

reactant | trifluoromethanesulfonic acid | 2.68 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 2-amino-4,5-bis(4-fluorophenyl)thiazole | 2.88 g | NC=1SC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C15H10F2N2S
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-trifluoromethanesulfonylamino-4,5-bis(4-fluorophenyl)thiazole | 0.47 g | FC(S(=O)(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)(F)F | C16H9F5N2O2S2
